* A dual opamp ngspice model
* file name: tlv6002.lib
.subckt TLV6002 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include tlv6001.lib
XU1A 1in+ 1in- vcc+ vcc- 1out TLV6001
XU1B 2in+ 2in- vcc+ vcc- 2out TLV6001
.ends